US07192982B2
(2S)-3-{4-[4-(Biphenyl-4-yloxy)-butyl]-phenyl}-2-methoxy-propionic acid
The title compound was prepared from (2S)-3-[4-(4-Hydroxy-butyl)-phenyl]-2-methoxy-propionic acid ethyl ester and 4-phenylphenol following the Standard Procedure of coupling-hydrolysis A. 1H-NMR (CDCl3, 200.15 MHz): δ 7.55–7.23 (m, 7H); 7.14 (d, 4H, J=1.1); 6.93 (d, 2H, J=8.4); 4.02–3.96 (m, 3H); 3.37 (s, 3H); 3.11 (dd, 1H, J=14.3, 4.4); 2.97 (dd, 1H, J=14.3, 7.3); 2.66 (t, 2H, J=7.0); 1.83–1.80 (m, 4H). MS (ES) for C26H28O4 [M+NH4]+: 422.2, [M+Na]+: 427.2.

reactant | (2S)-3-[4-(4-Hydroxy-butyl)-phenyl]-2-methoxy-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)CCCCO)OC)=O | C16H24O4
reactant | 4-phenylphenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
product | (2S)-3-{4-[4-(Biphenyl-4-yloxy)-butyl]-phenyl}-2-methoxy-propionic acid | C1(=CC=C(C=C1)OCCCCC1=CC=C(C=C1)C[C@@H](C(=O)O)OC)C1=CC=CC=C1 | C26H28O4
